US05204178
A mixture of 5.8 g of N-methylformamide, 13.6 g of sodium hydroxide solution powder [sic], 5.8 g of potassium carbonate powder, 3.2 g of tetrabutylammonium bisulfate and 90 ml of dimethylpropyleneurea was stirred for 1 hour at room temperature. Thereafter, the resulting mixture was heated at 40° C. for 20 minutes and then to 70° C. At this temperature, a solution of 25 g of 11-bromoundecan-1-ol in 70 ml of dimethylpropyleneurea was added dropwise to the mixture. The resulting reaction mixture was then stirred for a further 12 hours at 70° C. and then poured onto 1.6 1 of water. The aqueous phase obtained was extracted with four times 180 ml of a solvent mixture of ether and ethyl acetate in a volume ratio of 1 1. The resulting organic phases were combined, and the combined organic phase was washed with three times 50 ml of water and then dried with sodium sulfate. After the sodium sulfate had been separated off and the organic solvent evaporated off, 20.5 g of N-methyl-N-(11-hydroxyundecyl)-formamide were obtained, which corresponded to a yield of 91%.

reactant | N-methylformamide | 5.8 g | CNC=O | C2H5NO
reactant | sodium hydroxide | 13.6 g | [OH-].[Na+]
reactant | potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 11-bromoundecan-1-ol | 25 g | BrCCCCCCCCCCCO | C11H23BrO
catalyst | tetrabutylammonium bisulfate | 3.2 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylpropyleneurea | 70 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | dimethylpropyleneurea | 90 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | water | O | H2O
product | N-methyl-N-(11-hydroxyundecyl)-formamide | 20.5 g, yield of 91% | CN(C=O)CCCCCCCCCCCO | C13H27NO2
